US05942641
2-[2-(3,4-Dimethoxyphenyl)-4,5-dimethoxyphenyl]-4,4-dimethyl-2-oxazoline (10 g) was dissolved in nitromethane (100 ml), to which was added methyl iodide (10 ml), and the mixture was allowed to stand at room temperature for 24 hours. It was concentrated by an evaporator, and methanol (150 ml) and a 20% aqueous sodium hydroxide solution (150 ml) were added to the residue to reflux for 18 hours. The solvent was distilled off until the system becomes ununiform, and water was added until it becomes transparent. After washing with diethyl ether (200 ml), the aqueous layer was cooled in a ice-water bath and concentrated hydrochloric acid was added until it becomes acidic. The insoluble matter formed was filtered, washed with water and dried to give 7.7 g of 2-(3,4-dimethoxyphenyl)-4,5-dimethoxybenzoic acid as a white powder.

reactant | 2-[2-(3,4-Dimethoxyphenyl)-4,5-dimethoxyphenyl]-4,4-dimethyl-2-oxazoline | 10 g | COC=1C=C(C=CC1OC)C1=C(C=C(C(=C1)OC)OC)C=1OCC(N1)(C)C | C21H25NO5
reactant | methyl iodide | 10 ml | CI | CH3I
reactant | nitromethane | 100 ml | [N+](=O)([O-])C | CH3NO2
product | 2-(3,4-dimethoxyphenyl)-4,5-dimethoxybenzoic acid | 7.7 g | COC=1C=C(C=CC1OC)C1=C(C(=O)O)C=C(C(=C1)OC)OC | C17H18O6
